US05891871
1-(4-Fluorophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one
The title compound was prepared from methyl 2-(4-fluorobenzoyl)-4,5-methylenedioxyphenylacetate (350 mg, 1.11 mmol), hydrazine hydrate (180 μL, 3.18 mmol), and acetic acid (50 μL) in ethanol (10 mL), mp: 205°-207° C. 1H NMR (CDCl3) 8.45 (s, 1H), 7.59 (dd, 2H, J=8.5, J=5.5), 7.11 (dd, 2H, J=8.5, J=8.5), 6.83 (s, 1H), 6.61 (s, 1H), 6.04 (s, 2H), 3.45 (s, 2H). Anal. calcd. for C16H11FN2O3.0.125 H2O: C, 63.94; H, 3.77; N, 9.32. Found: C, 63.83; H, 3.58; N, 9.03.

reactant | methyl 2-(4-fluorobenzoyl)-4,5-methylenedioxyphenylacetate | 1.11 mmol, 350 mg | FC1=CC=C(C(=O)C2=C(C=C3C(=C2)OCO3)CC(=O)OC)C=C1 | C17H13FO5
reactant | hydrazine hydrate | 3.18 mmol, 180 μL | O.NN
reactant | acetic acid | 50 μL | C(C)(=O)O | C2H4O2
reactant | H2O | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1-(4-Fluorophenyl)-7,8-methylenedioxy-3,5-dihydro-2,3-benzodiazepin-4(4H)-one | FC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)=O | C16H11FN2O3
